US04206120
Methyl 3-oxo-4-(4-chloro-2-oxoazetidin-1-yl)butyrate
Methyl 3-oxo-4-(2-oxo-4-methylthioazetidin-1-yl)butyrate (300 mg) was dissolved in dry carbon tetrachloride (10 ml) and the solution was stirred and ice-cooled with exclusion of moisture while chlorine (90 mg) in dry carbon tetrachloride (1.5 ml) was added in one portion. After addition, the mixture was warmed to room temperature and stirred for 3 minutes. The solvent was then evaporated under reduced pressure. The residue was dissolved in fresh carbon tetrachloride (5 ml) and again the solvent was removed under reduced pressure. The title compound was thus obtained as a yellow gum (300 mg).

reactant | Methyl 3-oxo-4-(2-oxo-4-methylthioazetidin-1-yl)butyrate | 300 mg | O=C(CC(=O)OC)CN1C(CC1SC)=O | C9H13NO4S
reactant | chlorine | 90 mg | ClCl | Cl2
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 1.5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 3-oxo-4-(4-chloro-2-oxoazetidin-1-yl)butyrate | O=C(CC(=O)OC)CN1C(CC1Cl)=O | C8H10ClNO4
